US05019574
The 2-ethoxy-3-morpholino-4-nitroquinoline (1.2 g, 0.004 mol) was dissolved in tetrahydrofuran (10 ml) and subjected to reduction in the presence of 10g palladium-on-carbon (0.3 g). After completion of the reaction, the palladium-on-carbon catalyst was filtered off and the mother liquor was concentrated. Following purification by chromatography on an alumina column using chloroform as a developing solvent, recrystallization from chloroform gas performed to obtain 4-amino-2-ethoxy-3-morpholinoquinoline in an amount of 0.7 g (yield, 60%).

reactant | 2-ethoxy-3-morpholino-4-nitroquinoline | 0.004 mol, 1.2 g | C(C)OC1=NC2=CC=CC=C2C(=C1N1CCOCC1)[N+](=O)[O-] | C15H17N3O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | 0.3 g | [Pd] | Pd
product | 4-amino-2-ethoxy-3-morpholinoquinoline | NC1=C(C(=NC2=CC=CC=C12)OCC)N1CCOCC1 | C15H19N3O2
